US05969140
1-[2-(2-Oxo-4-methoxymethoxy-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (1.39 g) is dissolved in a mixture of dioxane (10 ml) and methanol (5 ml), and thereto is added 2M hydrochloric acid (2 ml). The mixture is warmed to 50° C., and stirred for 7 hours, and then concentrated under reduced pressure to remove the solvent. To the residue are added chloroform and water, and the chloroform layer is separated, washed, dried and concentrated under reduced pressure to remove the solvent. The residue is purified by silica gel column chromatography (solvent; chloroform:methanol=10:1) to give 1-[2-(2-oxo-4-hydroxy-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene (0.79 g) which is listed in Table 7.

reactant | 1-[2-(2-Oxo-4-methoxymethoxy-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 1.39 g | O=C1N(C2=CC=CC=C2C(=C1)OCOC)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C30H28N2O7
reactant | hydrochloric acid | 2M, 2 ml | Cl | ClH
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
product | 1-[2-(2-oxo-4-hydroxy-1,2-dihydroquinolin-1-yl)-4-pyridyl]-2,3-bis(hydroxymethyl)-6,7-dimethoxynaphthalene | 0.79 g | O=C1N(C2=CC=CC=C2C(=C1)O)C1=NC=CC(=C1)C1=C(C(=CC2=CC(=C(C=C12)OC)OC)CO)CO | C28H24N2O6
